US06316466B1
A mixture of 2-(3-nitrobenzoyl)acetonitrile (13.75 g, 72.3 mmol) and N,N-diphenylformamidine (14.2 g, 72.3 mmol) in xylene (200 ml) was heated at reflux under nitrogen atmosphere. After 3 h, the reaction mixture was cooled to room temperature and diluted with xylenes to give 2-(3-nitrobenzoyl)-3-phenylaminoacrylonitrile (15.7 g) as a yellow solid.

reactant | 2-(3-nitrobenzoyl)acetonitrile | 72.3 mmol, 13.75 g | [N+](=O)([O-])C=1C=C(C(=O)CC#N)C=CC1 | C9H6N2O3
reactant | N,N-diphenylformamidine | 72.3 mmol, 14.2 g | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(3-nitrobenzoyl)-3-phenylaminoacrylonitrile | 15.7 g | [N+](=O)([O-])C=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11N3O3
